US09120749B2
tert-Butyl 2-{4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phen yl}propan-2-ylcarbamate
Following general procedure F, tert-butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate (74 mg, 0.140 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (57 mg, 0.210 mmol) to afford the crude product (68 mg) as a yellow solid: ESI MS m/z 590 [C33H33ClFN3O4+H]+.

reactant | tert-butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 0.140 mmol, 74 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C27H30BrN3O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.210 mmol, 57 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-Butyl 2-{4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phen yl}propan-2-ylcarbamate | 68 mg | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C33H33ClFN3O4
